US07705183B2
(1) Synthesis of 2,6-bis(trimethylsilyl)anthracene
Under an atmospheric argon gas flow, 2,6-dibromoanthracene in an amount of 2.8 g (8.3 millimole), dried tetrahydrofuran (THF) in an amount of 200 milliliter and dried toluene in an amount of 200 milliliter were placed into a three necked-flask equipped with a cooling pipe and having a capacity of 1 liter and then, the resultant solution was cooled down to −30° C. Subsequently, n-butyllithium in an amount of 12 milliliter (19.1 millimole, 1.58 M hexane solution) was added slowly. Then, after adding trimethylsilylchloride in an amount of 2.4 milliliter (19.1 millimole, d=0.85) at a temperature of −70° C., the resultant solution was stirred at a room temperature for 1 hour. After completing the reaction, 100 milliliter of water was added and an organic layer was separated. The solution was dried with a use of sodium sulfate and then, the solvent was separated by distillation, and the residue was washed with a use of 100 milliliter of methanol and as a result, 1.7 g of pale yellow powder was obtained (the yield: 57%).

reactant | 2,6-dibromoanthracene | BrC1=CC2=CC3=CC=C(C=C3C=C2C=C1)Br | C14H8Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 19.1 millimole, 1.58 M | CCCCCC | C6H14
reactant | trimethylsilylchloride | C[Si](C)(C)Cl | C3H9ClSi
solvent | water | 100 milliliter | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,6-bis(trimethylsilyl)anthracene | 1.7 g, yield: 57% | C[Si](C1=CC2=CC3=CC=C(C=C3C=C2C=C1)[Si](C)(C)C)(C)C | C20H26Si2
